US05039805
α-(1-t-Butoxyformamido)-p-toluic acid and β-alanine benzyl ester are coupled to give N-[α-(1-t-butoxyformamido)-p-toluoyl]-β-alanine benzyl ester, m.p. 113°-116° C.

reactant | α-(1-t-Butoxyformamido)-p-toluic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C(=O)O | C13H17NO4
reactant | β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCN)=O | C10H13NO2
product | N-[α-(1-t-butoxyformamido)-p-toluoyl]-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCNC(=O)C1=CC=C(C=C1)CNC(=O)OC(C)(C)C)=O | C23H28N2O5
